US04112095
As in Example 35, the following reactions are carried out. m-Tolualdehyde is reacted with p-toluenesulfonic acid, morpholine and KCN to give α-(m-tolyl)-4-morpholineacetonitrile as crystals, m.p. 59°-60° C.

reactant | m-Tolualdehyde | C1(=CC(=CC=C1)C=O)C | C8H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | KCN | [C-]#N.[K+]
product | α-(m-tolyl)-4-morpholineacetonitrile | C1(=CC(=CC=C1)C(C#N)N1CCOCC1)C | C13H16N2O
